US05679769
Preparation of the aspartic acid derivative E
A mixture of 8.2 mL of aqueous sodium hydroxide (1M, 8.2 mmol) and 16.4 mL of aqueous sodium bicarbonate (1M, 16.4 mmol) was added to the b-(p-methoxybenzoate) aspartic acid D (2.1 g, 8.2 mmol). (W. A. R. van Heeswijk, et al., Synthesis, 1982, 744) 16 mL of dioxane was added to dissolve the white paste and 2,2,2-trichloroethyl chloroformate (TrocCl, 1.24 mL, 9.03 mmol) was slowly added. Evolution of gas was observed and the mixture was stirred for 6 h. The solution was then extracted with ethyl acetate (3×100 mL), the aqueous layer was acidified with concentrated HCl and was extracted with ethyl acetate (2×100 mL). The organic extracts were combined, washed with 100 mL of brine, dried with sodium sulfate and the solvents were removed under reduced pressure. The residue was purified on silica [100 g, 80:19:1 CH2Cl2 : acetone:acetic acid→10:29:1] to give E (2.63 g, 75% yield). Rf =0.3 [80:19:1 CH2Cl2 :acetone:acetic acid]; FTIR (neat); 3327 (OH), 2958, 1732, 1516, 1248; 1H NMR (400 MHz) d 10-9 (br s, 1H, COOH), 7.28 (d, 2H, J=8 Hz, PMB), 6.89 (d, 2H, J=8 Hz, PMB), 6.01 (br d, 2H, J=8 Hz, NH), 5.15-5.05 (m, 2H, PMB), 4.8-4.6 (m, 3H), 3.81 (s, 3H, OMe), 3.13 (dd, 1H, J=17 Hz, J=4 Hz, Hb Asn), 2.93 (dd, 1H, J=17 Hz, J=5 Hz, Hb Asn); 13C d 175.12, 170.72, 159.63, 154.35, 130.11 (2 C), 127.07, 113.92 (2 C), 95.05, 74.65, 66.95, 55.14, 50.26, 36.16; MS (DCI, NH3) m/z 427 (M+).

reactant | sodium hydroxide | 8.2 mmol, 1M, 8.2 mL | [OH-].[Na+]
reactant | sodium bicarbonate | 16.4 mmol, 1M, 16.4 mL | C([O-])(O)=O.[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 9.03 mmol, 1.24 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | NH3 | N | H3N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
product | aspartic acid | 75% yield | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
